US07572805B2
Part D. 3-(10,10-Dimethyl-3,3-dioxo-3λ6-thia-4-aza-tricyclo[5.2.1.01,5]decane-4-carbonyl)-4-(2-isopropoxycarbonyl-3-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 2-[1-Benzyl-4-(10,10-dimethyl-3,3-dioxo-3λ6-thia-4-aza-tricyclo[5.2.1.01,5]decane-4-carbonyl)-pyrrolidin-3-yl]-6-trifluoromethyl-benzoic acid isopropyl ester (1.75 g, 2.77 mmol) in 50 mL of absolute ethanol was added di-tert-butyl dicarbonate (0.72 g, 3.30 mmol) and 10% Pd/C catalyst (0.35 g, 20 wt %). The resulting mixture was fitted with a three-way stopcock and a hydrogen balloon. The flask was alternatively evacuated (house vacuum) and filled with hydrogen several tines and then was allowed to stir under 1 atm of hydrogen for 4 h. The reaction was filtered through a pad of Celite and was concentrated in vacuo. The residue was taken up in EtOAc, washed with 1N HCl, sat'd aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (silica gel, elution with 5:1 hexane/ethyl acetate) to afford 1.0 g (56%) of the title compound. LRMS (ES)+: 587.28 (M+H—C4H8)+.

reactant | 2-[1-Benzyl-4-(10,10-dimethyl-3,3-dioxo-3λ6-thia-4-aza-tricyclo[5.2.1.01,5]decane-4-carbonyl)-pyrrolidin-3-yl]-6-trifluoromethyl-benzoic acid isopropyl ester | 2.77 mmol, 1.75 g | C(C)(C)OC(C1=C(C=CC=C1C(F)(F)F)C1CN(CC1C(=O)N1S(CC23C1CC(CC2)C3(C)C)(=O)=O)CC3=CC=CC=C3)=O | C33H39F3N2O5S
reactant | di-tert-butyl dicarbonate | 3.30 mmol, 0.72 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.35 g | [Pd] | Pd
product | 3-(10,10-Dimethyl-3,3-dioxo-3λ6-thia-4-aza-tricyclo[5.2.1.01,5]decane-4-carbonyl)-4-(2-isopropoxycarbonyl-3-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.0 g, 56% | C(C)(C)(C)OC(=O)N1CC(C(C1)C1=C(C(=CC=C1)C(F)(F)F)C(=O)OC(C)C)C(=O)N1S(CC23C1CC(CC2)C3(C)C)(=O)=O | C31H41F3N2O7S
